US05576334
In a similar manner to Example 1, starting material step (a), the p-toluenesulphonate salt of ethyl 4-aminophenoxyacetate (12.9 g, preparation described by Coutts, I. G. C. et al (1985), J. Chem. Soc. Perkin I, 1829), 4-cyanobenzoyl isocyanate (5.9 g), acetonitrile (400 ml total) and diisopropylethylamine (6.5 ml) were reacted to give, after stirring at ambient temperature for 1.5 hours, a solid, which was crystallised from acetonitrile/ethanol to give ethyl 4-[3-(4-cyanobenzoyl)ureido]phenoxyacetate (10.16 g) as an off-white solid: m.p. 200°-203° C.; NMR Spectrum (DMSO-d6) 1.22 (3H, t), 4.17 (2H, q), 4.75 (2H, s), 6.93 (2H, d), 7.49 (2H, d), 8.02 (2H, d), 8.13 (2H, d), 10.49 (1H, br s), 11.17 (1H, br s); Mass Spectrum m/Z 368 (M+H)+.

reactant | p-toluenesulphonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C
reactant | ethyl 4-aminophenoxyacetate | 12.9 g | NC1=CC=C(OCC(=O)OCC)C=C1 | C10H13NO3
reactant | 4-cyanobenzoyl isocyanate | 5.9 g | C(#N)C1=CC=C(C(=O)N=C=O)C=C1 | C9H4N2O2
reactant | diisopropylethylamine | 6.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | ethyl 4-[3-(4-cyanobenzoyl)ureido]phenoxyacetate | 10.16 g | C(#N)C1=CC=C(C(=O)NC(NC2=CC=C(OCC(=O)OCC)C=C2)=O)C=C1 | C19H17N3O5
